US07199265B2
Methyl[3,5-dichloro-4-(4-amino-3-trifluoromethylphenoxy)phenyl] acetate (70 mg) was coupled with isobutyryl chloride (30 mg), using the method described in Example 1(h). After purification on column (silica gel, ethyl acetate/petrolium ether, 1:9), 70 mg (84%) of methyl(3,5-dichloro-4-[4-isobutyramido-3-trifluoromethylphenoxy]phenyl) acetate was obtained, which was hydrolysed using the method described in Example 1(i). This gave 50 mg (74%) of 3,5-dichloro-4-(4-isobutyramido-3-trifluoromethylphenoxy)phenylacetic acid, m/z 450.

reactant | Methyl[3,5-dichloro-4-(4-amino-3-trifluoromethylphenoxy)phenyl] acetate | 70 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)N)C(F)(F)F)Cl)C | C16H12Cl2F3NO3
reactant | isobutyryl chloride | 30 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | methyl(3,5-dichloro-4-[4-isobutyramido-3-trifluoromethylphenoxy]phenyl) acetate | 70 mg, 84% | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)NC(C(C)C)=O)C(F)(F)F)Cl)C | C20H18Cl2F3NO4
